US08492582B2
Water (0.6 mL), sodium carbonate (0.16 g), tert-butyl 2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenylcarbamate (0.19 g), and tetrakis(triphenylphosphine)palladium(0) (29 mg) were added to an ethylene glycol dimethyl ether (2.0 mL) solution of tert-butyl 4-bromo-2-nitrobenzoate (0.15 g), followed by heating to reflux under a nitrogen atmosphere for 2 hours and 30 minutes. The reaction mixture was cooled to room temperature, and then ethyl acetate and a 10% aqueous solution of citric acid were added thereto. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [eluent: 91-80% hexane/ethyl acetate] to obtain 0.21 g of tert-butyl 4-(2-(tert-butoxycarbonylamino)phenyl)-2-nitrobenzoate as a yellow solid.

reactant | sodium carbonate | 0.16 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | tert-butyl 2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenylcarbamate | 0.19 g | CC1(OB(OC1(C)C)C1=C(C=CC=C1)NC(OC(C)(C)C)=O)C | C17H26BNO4
reactant | tert-butyl 4-bromo-2-nitrobenzoate | 0.15 g | BrC1=CC(=C(C(=O)OC(C)(C)C)C=C1)[N+](=O)[O-] | C11H12BrNO4
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
catalyst | tetrakis(triphenylphosphine)palladium(0) | 29 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethylene glycol dimethyl ether | 2.0 mL | COCCOC | C4H10O2
solvent | Water | 0.6 mL | O | H2O
product | tert-butyl 4-(2-(tert-butoxycarbonylamino)phenyl)-2-nitrobenzoate | 0.21 g | C(C)(C)(C)OC(=O)NC1=C(C=CC=C1)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)[N+](=O)[O-] | C22H26N2O6
